US04220761
A solution of 2-(2-benzoyloxyethoxyimino)-3-oxobutyrate (syn isomer, 28 g.), sulfuryl chloride (13.5 g.) and acetic acid (30 ml.) was stirred at 40° C. for 10 minutes and at room temperature for 5.5 hrs. The reaction mixture was treated in a conventional manner to give ethyl 2-(2-benzoyloxyethoxyimino)-4-chloro-3-oxobutyrate (syn isomer, 29 g.).

reactant | 2-(2-benzoyloxyethoxyimino)-3-oxobutyrate | 28 g | C(C1=CC=CC=C1)(=O)OCCON=C(C(=O)[O-])C(C)=O
reactant | sulfuryl chloride | 13.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-(2-benzoyloxyethoxyimino)-4-chloro-3-oxobutyrate | 29 g | C(C1=CC=CC=C1)(=O)OCCON=C(C(=O)OCC)C(CCl)=O | C15H16ClNO6
